US09428469B2
1-{4-[5-(3,5-Dichloro-phenylamino)-2H-[1,2,4]triazol-3-ylamino]-piperidin-1-yl}-ethanone (Compound 30)
To a stirred suspension of N3-(3,5-dichlorophenyl)-N5-(piperidin-4-yl)-1H-1,2,4-triazole-3,5-diamine 2,2,2-trifluoroacetate (50 mg, 0.113 mmol) in acetonitrile (5 mL), was added saturated sodium bicarbonate solution (5 mL) and acetic anhydride (14 mg, 0.136 mmol). The reaction mixture was stirred overnight at rt. The solution was extracted with EtOAc (3×10 mL) and dried with sodium sulfate. Removal of solvent gave the crude product, which was purified by flash chromatography to give 35 mg (84%) desired product as a white solid. MS +m/z: 369.0 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-N5-(piperidin-4-yl)-1H-1,2,4-triazole-3,5-diamine 2,2,2-trifluoroacetate | 0.113 mmol, 50 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NC1CCNCC1
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 0.136 mmol, 14 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-{4-[5-(3,5-Dichloro-phenylamino)-2H-[1,2,4]triazol-3-ylamino]-piperidin-1-yl}-ethanone | 35 mg, 84% | ClC=1C=C(C=C(C1)Cl)NC=1N=C(NN1)NC1CCN(CC1)C(C)=O | C15H18Cl2N6O
